US07511067B2
a) methyl 2-benzyloxy-5-(1-hydroxy-2-{3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-ethyl)-benzoate
8.5 g of methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 4.9 g of 3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamine in 100 mL ethanol are stirred for three hours at 60° C., cooled to 10° C., combined batchwise with 0.8 g of sodium borohydride and stirred for a further three hours at ambient temperature. Then 10 mL acetone are added and the mixture is stirred for one hour. It is then poured onto ice and acidified with glacial acetic acid. The ethanol is distilled off, the aqueous phase remaining is made alkaline with sodium hydroxide and extracted with ethyl acetate. The organic phases are dried with sodium sulphate and evaporated down. The residue is combined with 80 mL ethanol, acidified with 3.2 g of oxalic acid, dissolved in ethanol, and seeded. The product that crystallises out is suction filtered and washed. Yield: 8 g (69%, oxalate); m.p.=210-213° C.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 8.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamine | 4.9 g | COC1=CC=C(C=C1)C1=NN(C(=N1)C)CCC(C)(C)N | C15H22N4O
reactant | sodium borohydride | 0.8 g | [BH4-].[Na+]
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 2-benzyloxy-5-(1-hydroxy-2-{3-[3-(4-methoxy-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-ethyl)-benzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(CNC(CCN1N=C(N=C1C)C1=CC=C(C=C1)OC)(C)C)O | C32H38N4O5
